US06391887B1
6,8-Dichloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
6,8-Dichloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (100 mg, 0.39 mmol) is heated with Lawesson's reagent (412 mg, 1.02 mmol) for 2 hours in THF (20 ml). The batch is concentrated by evaporation and purified by column chromatography (SiO2) with ethyl acetate-hexane: 100 mg (94%) of product.

reactant | 6,8-Dichloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.39 mmol, 100 mg | ClC1=CC(=CC=2C3C(C(NC12)=O)CCC3)Cl | C12H11Cl2NO
reactant | Lawesson's reagent | 1.02 mmol, 412 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6,8-Dichloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | ClC1=CC(=CC=2C3C(C(NC12)=S)CCC3)Cl | C12H11Cl2NS
